US04206137
(a) 4-Oxo-5-hexenoic acid
[cf. J. Chem. Soc., 3922 (1958)]. A mixture of aluminum chloride (66.7 g., 0.5 M), succinic anhydride (25 g., 0.25 M) and 1,2-dichloroethane (1 liter) in a 2 liter 3 neck flask equipped with a gas inlet tube, a mechanical stirrer and a drying tube is stirred rapidly and ethylene is bubbled in for 4.5 hours. This is poured into 900 ml. 5% hydrochlorc acid and ice. The layers are separated and the organic layer is washed with water and taken to dryness in vacuo. The aqueous layer is extracted with ether (300 ml.). This extract is washed with water and combined with the material from the original organic layer. After removal of solvent, 150 ml. of 10% potassium carbonate solution is added and the mixture is heated on a steam cone for 15 minute. After cooling, the product 4-oxo-5-hexenoic acid is extracted into ether, dried and freed of solvent in vacuo leaving 10.9 g. (34%) of brownish liquid which solidifies on standing. This is distilled to give 7.1 g. (22%) of colorless liquid which solidifies on standing, b.p. ~120°-130°/0.5 mm.

reactant | aluminum chloride | 0.5 M, 66.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | 0.25 M, 25 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 1,2-dichloroethane | 1 liter | ClCCCl | C2H4Cl2
product | 4-Oxo-5-hexenoic acid | O=C(CCC(=O)O)C=C | C6H8O3
